US04774245
D. 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-5-methyl-imidazo(1,5-a)quinoxaline.
3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-5-cyclopropyl imidazo(1,5-a)quinoxaline, M.p. of hydrochloride 290°-300° C., by reaction between 1,2,3,4-tetrahydro-1-cyclopropyl-3-oxo-quinoxaline and 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole.

reactant | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-5-cyclopropyl imidazo(1,5-a)quinoxaline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1CN(C1=CC=CC=C21)C2CC2 | C18H17N5O
reactant | hydrochloride | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-cyclopropyl-3-oxo-quinoxaline | C1(CC1)N1CC(NC2=CC=CC=C12)=O | C11H12N2O
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
product | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-5-methyl-imidazo(1,5-a)quinoxaline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(N(C1=CC=CC=C21)C)=O | C16H13N5O2
